US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(6-pyrrolidin-1-yl-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Example 141, from 103 mg (0.23 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one and 0.5 mL pyrrolidine in 2 mL THF. Yield: 50 mg of a yellow powder. LC-MSD, m/z for C25H21BrN4O2 [M+H]+=489.0, 491.0; HPLC retention time: 1.1 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one | 0.23 mmol, 103 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=CC1)Cl | C21H13BrClN3O2
reactant | pyrrolidine | 0.5 mL | N1CCCC1 | C4H9N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(6-pyrrolidin-1-yl-pyridine-3-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=CC1)N1CCCC1 | C25H21BrN4O2
